US09108969B2
Step B: Preparation of Ethyl 2-(Benzyloxy)-9-hydroxy-6,7-dihydropyrido[1,2-a]indole-8-carboxylate
To a solution of ethyl 5-(benzyloxy)-1-(4-ethoxy-4-oxobutyl)-1H-indole-2-carboxylate (1 g, 2.442 mmol) in THF was added a 1 M solution of KOtBu in THF (3.17 mL, 3.17 mmol) at 0° C. The reaction mixture was stirred at that temperature for 2 h, poured into 1 N HCl aqueous solution, extracted with ethyl acetate. The combined organics were washed with water, dried over Na2SO4, and concentrated to give the title compound (850 mg) without further purification. LCMS m/z=364.3 [M+H]+.

reactant | ethyl 5-(benzyloxy)-1-(4-ethoxy-4-oxobutyl)-1H-indole-2-carboxylate | 2.442 mmol, 1 g | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)CCCC(=O)OCC)C(=O)OCC | C24H27NO5
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3.17 mmol, 3.17 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(Benzyloxy)-9-hydroxy-6,7-dihydropyrido[1,2-a]indole-8-carboxylate | 850 mg | C(C1=CC=CC=C1)OC=1C=C2C=C3N(C2=CC1)CCC(=C3O)C(=O)OCC | C22H21NO4
